US08937078B2
Step B: Preparation of 1-(6,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
Chlorotrimethylsilane (1.26 mL, 10.0 mmol) was added to a solution of 1-[(3,4-dimethoxy-phenylamino)-ethoxycarbonylimino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.39 g, 1.0 mmol) and DMF (3 mL), and the resulting mixture was heated to 80° C. for 16 h in a sealed tube. The reaction mixture was cooled and water (2 mL) was added. The crude reaction mixture was concentrated under reduced pressure and the resulting aqueous mixture was adjusted to pH 7 using 2M aqueous NH4OH. The residue was triturated well and collected by vacuum filtration. The titled compound was purified by preparative reverse-phase HPLC (0.28 g, 81%). MS (ESI): mass calcd. for C16H16N4O5, 344.4; m/z found, 345.7 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.06-12.23 (br m, 1H), 8.97 (s, 1H), 8.28 (s, 1H), 7.47 (s, 1H), 7.21 (s, 1H), 4.29 (q, J=7.1 Hz, 2H), 3.93 (s, 3H), 3.89 (s, 3H), 1.32 (t, J=7.1 Hz, 3H).

reactant | Chlorotrimethylsilane | 10.0 mmol, 1.26 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1-[(3,4-dimethoxy-phenylamino)-ethoxycarbonylimino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 1.0 mmol, 0.39 g | C(C)OC(=O)C=1C=NN(C1)C(=NC(=O)OCC)NC1=CC(=C(C=C1)OC)OC | C18H22N4O6
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | 1-(6,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=C(C=C2C(N1)=O)OC)OC | C16H16N4O5
